Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Pre-syncope, dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with history of HTN, pAF,
CVA, MR, CKD presenting from his PCP's office with pre-syncope.

History was taken with the assistance of the patient's wife and
two children, who are psychiatrists. The patient has reportedly
had labile blood pressures and his antihypertensives have been
adjusted. Currently, he is on carvedilol 6.25 mg BID and
amlodipine 2.5 mg, and an extra dose of 2.5 mg if his blood
pressure remains elevated in the evening. Systolic blood
pressures have been fluctuating around the 150s at home, but he
feels very weak when his BP goes below 150.

The patient emigrated from ___ in ___ of this year. Per 
his
family, he has had multiple episodes of pre-syncope/syncope that
were previously evaluated in ___. A few months ago, he had
an episode of syncope at a restaurant while eating with his son.
He reportedly stopped responding, lost consciousness, and CPR 
was
performed. He was taken to the hospital, and reportedly regained
consciousness and returned to his baseline.

Per report, he has been feeling weak since starting on 
amlodipine
about 1 month ago. He has felt more weak in the past two days.
The weakness is in his legs. He denies any dizziness,
lightheadedeness, chest pain, palpitations, pre-syncope, 
syncope,
or falls in the past few days. No fevers, chills, abdominal 
pain,
nausea, vomiting, dysuria, frequency, diarrhea. Of note, he 
walks
unassisted about ___ minutes per day without difficulty. 

He presented to his PCP's office, where "while taking the BP
myself and starting the examination, pt became pale, did not
respond appropriately to questions and commands and had a near
syncope episode, no complete LOC observed." Per PCP notes,
patient was placed on Trendelenburg position, elevated legs,
vitals taken, about 3 min after he responded better and stated 
he
felt better. Per patient's wife, he did lose consciousness for
about ___ minutes. 
 
Past Medical History:
- Left-sided stroke with mild residual right-sided hemiparesis
- Mitral regurgitation
- Hypertension
- Atrial fibrillation
- Chronic renal failure
- BPH

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
Admission:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Oropharynx without visible lesion, erythema or exudate
CV: Heart irregular, III/VI blowing systolic murmur, no JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength tested and
grossly full and symmetric bilaterally in all limbs; no weakness
appreciated
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect

Discharge:
VITALS: ___: Afebrile, BP 151/71-178/78, HR ___, RR ___, 
95% on room air
GENERAL: Alert and in no apparent distress
EYES: Anicteric, EOMI
ENT: Oropharynx without visible lesion, erythema or exudate
CV: Heart irregular rhythm, normal rate, III/VI blowing systolic 
murmur heard throughout
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present. 
GU: No suprapubic fullness or tenderness to palpation. No foley
MSK: Moves all extremities, no edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric,  speech fluent, moves 
all limbs
PSYCH: Pleasant, appropriate affect, calm, cooperative
 
Pertinent Results:
ON ADMISSION:

___ 12:35PM BLOOD WBC-7.2 RBC-3.75* Hgb-11.6* Hct-34.9* 
MCV-93 MCH-30.9 MCHC-33.2 RDW-13.2 RDWSD-44.8 Plt ___
___ 12:35PM BLOOD Neuts-57.8 ___ Monos-7.6 Eos-6.1 
Baso-0.6 Im ___ AbsNeut-4.17 AbsLymp-1.99 AbsMono-0.55 
AbsEos-0.44 AbsBaso-0.04
___ 12:35PM BLOOD ___ PTT-28.7 ___
___ 12:35PM BLOOD Glucose-137* UreaN-34* Creat-2.6* Na-140 
K-5.4 Cl-105 HCO3-23 AnGap-13
___ 12:35PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD cTropnT-<0.01
___ 12:35PM BLOOD Calcium-9.4 Phos-2.7 Mg-2.2
___ 12:44PM BLOOD Lactate-2.5*
___ 08:05PM BLOOD Lactate-1.4

ON DISCHARGE:

___ 06:20AM BLOOD WBC-6.7 RBC-2.80* Hgb-8.6* Hct-26.9* 
MCV-96 MCH-30.7 MCHC-32.0 RDW-13.9 RDWSD-48.8* Plt ___
___ 06:20AM BLOOD Glucose-95 UreaN-37* Creat-2.5* Na-145 
K-4.9 Cl-108 HCO3-27 AnGap-10
___ 07:12AM BLOOD calTIBC-259* VitB12-326 Folate-8 
Ferritn-79 TRF-199*
___ 07:12AM BLOOD TSH-4.2
___ 11:00PM URINE Color-Straw Appear-Clear Sp ___
___ 11:00PM URINE Blood-MOD* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:00PM URINE RBC-4* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 11:00PM URINE AmorphX-RARE*
___ 11:11AM URINE Mucous-RARE*

MICRO:
Blood cultures x2 from ___ and x2 from ___: No growth to 
date (pending)
Urine culture ___: <10,000 CFU (final)
Urine culture ___: No growth (final)

IMAGING:

CT head without contrast ___: 
1. No intracranial hemorrhage.  No definite acute large 
territorial
infarction, although MRI is more sensitive the detection of 
acute infarct.
2. Extensive encephalomalacia centered in the left parietal 
lobe, likely
reflecting prior chronic infarct.

CXR ___:
No acute intrathoracic process.

TTE ___:
The left atrium is SEVERELY dilated. The right atrium is mildly 
enlarged. There is normal left ventricular wall thickness with a 
normal cavity size. There is suboptimal image quality to assess 
regional left ventricular function. Overall left ventricular 
systolic function is normal. The visually estimated left 
ventricular ejection fraction is 60%. Due to severity of mitral 
regurgitation, intrinsic left ventricular systolic function
likely be lower. There is no resting left ventricular outflow 
tract gradient. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus is mildly dilated with mildly 
dilated ascending aorta. The aortic arch diameter is normal. The 
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. There is mild to moderate [___] aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with mild posterior leaflet systolic prolapse. No valvular 
systolic anterior motion (___) is present. There is no mitral 
valve stenosis. There is an eccentric, anteriorly directed jet 
of moderate [2+] mitral regurgitation. Due to the Coanda effect, 
the severity of mitral regurgitation could be UNDERestimated. 
The tricuspid valve leaflets are
mildly thickened. There is mild [1+] tricuspid regurgitation. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.
Compared with the prior TTE, mitral regurgitation appears less 
prominent.
 
Brief Hospital Course:
Mr. ___ was admitted for presyncope. 

#Presyncope:
Telemetry showed only rate-controlled atrial fibrillation.  
Cardiology was consulted and given recent extensive cardiac 
workup, they felt this episode was unlikely to be cardiac in 
origin. TTE was repeated was stable.  The most likely cause of 
presyncope was either UTI or urinary retention. Urinalysis and 
culture were unable to be performed the first day due to foley 
trauma with significant hematuria. 

#Hematuria, urinary retention, BPH, acute blood loss anemia:
He developed hematuria after traumatic attempts at placing Foley 
in the ED.  Warfarin was held and initial INR was 2.5.. Urology 
was consulted and offered foley, but the patient and his family 
refused citing infection risk.  Upon discussion with family, it 
was agreed to hold warfarin until hematuria resolves and restart 
warfarin as an outpatient.  The patient endorsed significant 
prostate symptoms and started on Flomax but developed 
orthostatic hypotension so it was stopped.  PVRs improved to 
150s.  He was not having difficulty urinating at the time of 
discharge and urine was non-bloody.  Last INR was 1.4 on 
___ and hemoglobin was 8.6 on discharge, down from 
admission.  

#Hypertension:
Amlodipine was stopped due to the patient feeling lower 
extremity weakness while on it.  Flomax was started for BPH but 
he developed relative hypotension, so it was stopped.  His BP 
was noted to be labile.  Due to concern that this was 
contributing to presyncope, decision was made to discontinue all 
blood pressure meds except for Coreg.  His goal systolic blood 
pressure was 140s-170s. 

#Possible urinary tract infection:
Ceftriaxone were started empirically to treat for possible 
urinary infection, given his urinary difficulty earlier in his 
hospital course.  Urine cultures were negative.  He was afebrile 
without leukocytosis.  He was discharged on Cefpodoxime (renally 
dosed) to be completed on ___, for total of 7 days.

#Transition of care issues: I spoke with Dr. ___ by phone 
prior to discharge on ___ regarding plan.  The patient has 
follow up scheduled with his PCP and cardiologist later this 
month.  He was discharged with ___ services (___).
- Once hematuria has resolved, discuss restarting warfarin.
- Patient was given order for a CBC to be drawn around 
___ to assess for worsening anemia.
- Recommend urology referral if persistent hematuria or 
difficulty urinating.
- Consider restarting Amlodipine if HTN not adequately 
controlled.

Check if applies: [ X ] Mr. ___ is clinically stable for 
discharge today. The total time spent today on discharge 
planning, counseling and coordination of care today was greater 
than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 6.25 mg PO BID 
2. amLODIPine 5 mg PO DAILY 
3. Warfarin 2 mg PO 2X/WEEK (___) 
4. Warfarin 1 mg PO 5X/WEEK (___) 

 
Discharge Medications:
1.  cefPODOXime 200 mg oral DAILY Duration: 2 Days 
Take ___ and ___ 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth Daily Disp #*2 
Tablet Refills:*0 
2.  Carvedilol 6.25 mg PO BID  
3. HELD- Warfarin 2 mg PO 2X/WEEK (___)  This medication was 
held. Do not restart Warfarin until hematuria resolves and 
you've discussed with your primary doctor
4. HELD- Warfarin 1 mg PO 5X/WEEK (___)  This 
medication was held. Do not restart Warfarin until hematuria 
resolves and you've discussed with your primary doctor
5.Outpatient Lab Work
CBC around ___ to monitor for acute blood loss 
anemia (D64.9).  Follow up with Dr. ___ ( ___ 
).

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pre-syncope
Presumed UTI
Paroxysmal atrial fibrillation
HTN
BPH
Severe mitral regurgitation
CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for presyncope (dizziness).  You already had 
workup as outpatient which was unrevealing.  During hospitalized 
telemetry only revealed rate controlled atrial fibrillation.  
Cardiology consult was called and they felt the presyncopal 
episode was unlikely to be cardiac. We think the original 
episode was either due to urinary infection or urinary retention 
from enlarged prostate. 

Antibiotics were started to treat for possible urinary infection 
and will be continued for 7 days total.  

Flomax was stopped due to decrease in blood pressure. We decided 
to discontinue all blood pressure meds except for Coreg and your 
goal systolic blood pressure is 140s-170s. 

You had some trauma from attempts to insert Foley catheter, and 
warfarin was stopped so bleeding can be controlled.  Urology was 
consulted for hematuria and felt catheter placement was an 
option, but you were urinating alright and declined catheter 
placement. 

Please do not restart warfarin until you've discussed with your 
primary doctor. Follow up with your PCP, ___, and your 
cardiologist within the next ___ weeks.  You will need a repeat 
CBC (blood count) drawn early this week.
 
Followup Instructions:
___